US07235261B2
(ethoxymethoxy)cyclododecane;
esters of cyclic alcohols, such as, for example, 2-tert.-butylcyclohexyl acetate; 4-tert.-butylcyclohexyl acetate; 2-tert.-pentylcyclohexyl acetate; 4-tert.-pentylcyclohexyl acetate; decahydro-2-naphthyl acetate; 3-pentyltetrahydro-2H-pyran-4-yl acetate; decahydro-2,5,5,8a-tetramethyl-2-naphthyl acetate; 4,7-methano-3a,4,5,6,7,7a-hexahydro-5 or 6-indenyl acetate; 4,7-methano-3a,4,5,6,7,7a-hexahydro-5 or 6-indenyl propionate; 4,7-methano-3a,4,5,6,7,7a-hexahydro-5 or 6-indenyl-isobutyrate; 4;7-methanooctahydro-5 or 6-indenyl acetate;

reactant | 2-tert.-butylcyclohexyl acetate | C(C)(=O)OC1C(CCCC1)C(C)(C)C | C12H22O2
reactant | 4-tert.-butylcyclohexyl acetate | C(C)(=O)OC1CCC(CC1)C(C)(C)C | C12H22O2
reactant | 2-tert.-pentylcyclohexyl acetate | C(C)(=O)OC1C(CCCC1)C(C)(C)CC | C13H24O2
reactant | 4-tert.-pentylcyclohexyl acetate | C(C)(=O)OC1CCC(CC1)C(C)(C)CC | C13H24O2
reactant | decahydro-2-naphthyl acetate | C(C)(=O)OC1CC2CCCCC2CC1 | C12H20O2
reactant | 3-pentyltetrahydro-2H-pyran-4-yl acetate | C(C)(=O)OC1C(COCC1)CCCCC | C12H22O3
reactant | decahydro-2,5,5,8a-tetramethyl-2-naphthyl acetate | C(C)(=O)OC1(CC2(CCCC(C2CC1)(C)C)C)C | C16H28O2
reactant | 6-indenyl acetate | C(C)(=O)OC1=CC=C2C=CCC2=C1 | C11H10O2
reactant | 6-indenyl propionate | C(CC)(=O)OC1=CC=C2C=CCC2=C1 | C12H12O2
reactant | 6-indenyl-isobutyrate | C1C=CC2=CC=C(C=C12)OC(C(C)C)=O | C13H14O2
product | (ethoxymethoxy)cyclododecane | C(C)OCOC1CCCCCCCCCCC1 | C15H30O2
